US08629282B2
Racemic 2-azido-6-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)-1,2,3,4-tetrahydronaphthalen-1-ol (130 mg, 0.28 mmol) was dissolved in CH2Cl2 (694 μL). To this solution was added 2,6-lutidine (129 μL, 1.1 mmol) and tert-butyldimethylsilyl trifluoromethanesulfonate (133 μL, 0.55 mmol). The reaction was stirred at room temperature for 1 h. After that, the solution was loaded onto a 12 g ISCO column and purified by ISCO Combiflash Companion (0% ethyl acetate-hexane for 3 min then ramp to 20% ethyl acetate-hexane over 5 min then 20% ethyl acetate-hexane for 8 more min, product came out 8-10 min) to afford racemic-3-(6-azido-5-(tert-butyldimethylsilyloxy)-5,6,7,8-tetrahydronaphthalen-2-yl)-5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazole (130 mg, 0.22 mmol, 80%) as a white solid: LCMS=605.34 [M+Na]+.

reactant | Racemic 2-azido-6-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)-1,2,3,4-tetrahydronaphthalen-1-ol | 0.28 mmol, 130 mg | N(=[N+]=[N-])C1C(C2=CC=C(C=C2CC1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F)O | C22H15F3N6O3
reactant | 2,6-lutidine | 1.1 mmol, 129 μL | N1=C(C=CC=C1C)C | C7H9N
reactant | tert-butyldimethylsilyl trifluoromethanesulfonate | 0.55 mmol, 133 μL | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
solvent | CH2Cl2 | 694 μL | C(Cl)Cl | CH2Cl2
product | racemic-3-(6-azido-5-(tert-butyldimethylsilyloxy)-5,6,7,8-tetrahydronaphthalen-2-yl)-5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazole | 0.22 mmol, 130 mg, 80% | N(=[N+]=[N-])C1C(C=2C=CC(=CC2CC1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F)O[Si](C)(C)C(C)(C)C | C28H29F3N6O3Si
